US04060526
Step 5. 2-[2-(4-Hydroxy-4-phenylpiperidyl)ethylamino]benzamide
2-[-(2-[Hydroxy-4-phenylpiperidyl]ethyl)amino]benzamide hydrochloride (12 g.) in 200 ml methanol was hydrogenated at 60 psi using 1.5 g 5% Pd-C catalyst (1.5 g and 1.0 g portions of fresh catalyst were added during the reduction). The catalyst was filtered off and the filtrate concentrated to dryness on the rotovap. The residue was recrystallized from 60 ml isopropanol and then from 300 ml isopropanol to give 6.1 product, m.108-13°. Analysis showed 13.39% isopropanol in the product.

reactant | 2-[-(2-[Hydroxy-4-phenylpiperidyl]ethyl)amino]benzamide hydrochloride | 12 g | Cl.OC1N(CCC(C1)C1=CC=CC=C1)CCNC1=C(C(=O)N)C=CC=C1
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd-C | 1.5 g | [Pd] | Pd
product | 2-[2-(4-Hydroxy-4-phenylpiperidyl)ethylamino]benzamide | OC1(CCN(CC1)CCNC1=C(C(=O)N)C=CC=C1)C1=CC=CC=C1 | C20H25N3O2
